US09193689B2
To a stirred solution of acetic acid (0.005 mL, 0.068 mmol) in CH2Cl2 (5 mL) was added TBTU (22 mg, 0.068 mmol) and N,N-diisopropylethylamine (0.036 mL, 0.20 mmol) and the reaction stirred for 10 min at RT. 5-Methyl-3-(4-piperazin-1-ylmethylphenyl)-2H-isoquinolin-1-one (23 mg, 0.068 mmol) was then added and the reaction stirred for 2 h at RT. The reaction mixture was concentrated in vacuo and purified by reverse phase preparative HPLC-MS to afford 3-[4-(4-acetyl-piperazine-1-ylmethyl)-phenyl]-5-methyl-2H-isoquinolin-1-one as a white solid (2 mg, 9%).

reactant | acetic acid | 0.068 mmol, 0.005 mL | C(C)(=O)O | C2H4O2
reactant | TBTU | 0.068 mmol, 22 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.20 mmol, 0.036 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 5-Methyl-3-(4-piperazin-1-ylmethylphenyl)-2H-isoquinolin-1-one | 0.068 mmol, 23 mg | CC1=C2C=C(NC(C2=CC=C1)=O)C1=CC=C(C=C1)CN1CCNCC1 | C21H23N3O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-[4-(4-acetyl-piperazine-1-ylmethyl)-phenyl]-5-methyl-2H-isoquinolin-1-one | 2 mg, 9% | C(C)(=O)N1CCN(CC1)CC1=CC=C(C=C1)C=1NC(C2=CC=CC(=C2C1)C)=O | C23H25N3O2
